US04072750
Preparation of 2-(methylcarbamoyl oximino)-1, 3, 5-trithiane - 5,5-dioxide
2-(Methylcarbamoyloximino)-1,3,5-trithiane-5-oxide prepared by the method of Example IV was further reacted with 5 ml of peracetic acid and left standing for 18 hours at room temperature. Concentrating under reduced pressure yielding 0.15g of a solid residue. Crystallization from acetonitrile yielded a solid, m.p. 174°-177° C (decomp.)

reactant | 2-(Methylcarbamoyloximino)-1,3,5-trithiane-5-oxide | CNC(=O)ON=C1SCS(CS1)=O | C5H8N2O3S3
reactant | peracetic acid | 5 ml | C(C)(=O)OO | C2H4O3
product | 2-(methylcarbamoyl oximino)-1, 3, 5-trithiane - 5,5-dioxide | 0.15g | CNC(=O)ON=C1SCS(CS1)(=O)=O | C5H8N2O4S3
